US07598383B2
Step F: Preparation of 4-(2-fluoro-4-methylphenylamino)-1,3,8-trimethyl-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione:
2-Fluoro-4-methylphenylamine (1.10 equivalents), palladium (II) acetate (0.10 equivalents), rac-2,2-bis(diphenylphosphino)-1,1′-binaphthyl (0.15 equivalents), and cesium carbonate (1.50 equivalents) are added to a solution of 4-chloro-1,3,8-trimethyl-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione (1.00 equivalent) in toluene in a sealed vial. After stirring 10 minutes, the mixture is heated to 80° C. After 24 hours, the reaction mixture is cooled to room temperature and diluted with EtOAc. The resulting precipitate is filtered and washed with EtOAc. The filtrate is diluted with EtOAc and washed with water. The aqueous layer is reextracted with EtOAc. The combined organic layers are washed with brine, dried (Na2SO4) and concentrated. Purification by flash column chromatography gives the desired product.

reactant | 2-Fluoro-4-methylphenylamine | 1.10 equivalents | FC1=C(C=CC(=C1)C)N | C7H8FN
reactant | rac-2,2-bis(diphenylphosphino)-1,1′-binaphthyl | 0.15 equivalents | C1(=CC=CC=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H34P2
reactant | cesium carbonate | 1.50 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-1,3,8-trimethyl-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione | 1.00 equivalent | ClC1=C(C(N(C=2C(=NNC(C21)=O)C)C)=O)C | C10H10ClN3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.10 equivalents | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2-fluoro-4-methylphenylamino)-1,3,8-trimethyl-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione | FC1=C(C=CC(=C1)C)NC1=C(C(N(C=2C(=NNC(C21)=O)C)C)=O)C | C17H17FN4O2
